US05196409
Octamethy 1,12-dihydroxydodecane-1,1,12,12-tetrakisphosphonate
5.34 g (0.02 mol) 1,12-dodecanedioyl dichloride was added dropwise, with stirring, in a nitrogen atmosphere, to a mixture of 4.96 g (0.04 mol) of trimethyl phosphite and 4.40 g (0.04 mol) of dimethyl phosphite at room temperature. The mixture was stirred for 10 hrs at 90° C. and the reaction mixture was evaporated under reduced pressure. The oily residue (9.8 g) showed a broad signal at δ=22.3 ppm in the 31P nmr spectrum.

reactant | 1,12-dodecanedioyl dichloride | 0.02 mol, 5.34 g | C(CCCCCCCCCCC(=O)Cl)(=O)Cl | C12H20Cl2O2
reactant | trimethyl phosphite | 0.04 mol, 4.96 g | P(OC)(OC)OC | C3H9O3P
reactant | dimethyl phosphite | 0.04 mol, 4.40 g | P(OC)(OC)[O-]
product | Octamethy 1,12-dihydroxydodecane-1,1,12,12-tetrakisphosphonate | OC(CCCCCCCCCCC(P(OC)(=O)OC)(P(OC)(=O)OC)O)(P(OC)(=O)OC)P(OC)(=O)OC | C20H46O14P4
